US07514419B2
To a stirring solution of methyl 3,5-dimethyl-4-(4′-methoxymethoxy-3′-iso-propylbenzyl)benzoate (0.750 g, 2.11 mmol) in MeOH (20.0 mL) at 0° C. was added 1 M NaOH (12.64 mL, 12.64 mmol). The reaction mixture was heated at 50° C. for 16 h, cooled to 0° C. and acidified with 2 N HCl. The mixture was extracted with ethyl acetate (20 mL) and washed with H2O (10 mL×2.). The solvent was removed under reduced pressure to afford 3,5-dimethyl-4-(4′-methoxymethoxy-3′-iso-propylbenzyl)benzoic acid as white solid (0.71 g, 98%): 1H NMR (300 MHz, DMSO-d6): δ 12.76 (s, 1 H), 7.65 (s, 2 H), 6.98 (m, 1 H), 6.91 (m, 1 H), 6.60 (m, 1 H), 5.17 (s, 2 H), 4.00 (s, 2 H), 3.37 (s, 3 H), 3.23 (m, 1 H), 2.27 (s, 6 H), 1.14 (d, J=6.0 Hz, 6 H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=hexanes-ethyl acetate (4:1); Rf=0.00.

reactant | methyl 3,5-dimethyl-4-(4′-methoxymethoxy-3′-iso-propylbenzyl)benzoate | 2.11 mmol, 0.750 g | CC=1C=C(C(=O)OC)C=C(C1CC1=CC(=C(C=C1)OCOC)C(C)C)C | C22H28O4
reactant | NaOH | 12.64 mmol, 1 M, 12.64 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | MeOH | 20.0 mL | CO | CH4O
product | 3,5-dimethyl-4-(4′-methoxymethoxy-3′-iso-propylbenzyl)benzoic acid | 0.71 g, 98% | CC=1C=C(C(=O)O)C=C(C1CC1=CC(=C(C=C1)OCOC)C(C)C)C | C21H26O4
